US06583135B2
Preparation of 10-(2-Fluorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole Hydrochloride
A mixture of 3-benzyl-10-(2-fluorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (0.11 g, 0.30 mmol), 1 N hydrochloric acid (0.3 mL, 0.3 mmol) and Pd/C (10%, 0.2 g) in ethanol (50.0 mL) was reacted in a manner similar to Example 8 to give 0.017 g of the title compound as a pale green solid: mp>259° C. (dec.); 1H NMR (300 MHz, DMSO-d6) δ 11.29, 9.29, 7.51-7.41, 7.39-7.25, 7.08, 6.77, 3.33-3.20, 3.20-3.09, 3.09-2.99, 2.63-2.50; MS (EI) m/z 294 (M+).

reactant | 3-benzyl-10-(2-fluorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 0.30 mmol, 0.11 g | C(C1=CC=CC=C1)N1CCC=2NC=3C=CC=C(C3C2CC1)C1=C(C=CC=C1)F | C25H23FN2
reactant | hydrochloric acid | 0.3 mmol, 1 N, 0.3 mL | Cl | ClH
solvent | ethanol | 50.0 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.2 g | [Pd] | Pd
product | 10-(2-Fluorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole Hydrochloride | 0.017 g | Cl.FC1=C(C=CC=C1)C=1C=2C3=C(NC2C=CC1)CCNCC3 | InChI=1S/C18H17FN2.ClH/c19-15-6-2-1-4-12(15)13-5-3-7-17-18(13)14-8-10-20-11-9-16(14)21-17;/h1-7,20-21H,8-11H2;1H
